US05116846
Part A: 1-Benzyl-4(2'-methoxyethenyl)piperidine
A solution of di-isopropylamine (4.38 g, 6.1 mL, 43.3 mmol) in anhydrous tetrahydrofuran (50 mL) was cooled to 0° C. with stirring. A solution of n-butyl lithium in hexanes (2.4 M, 17.3 mL, 43.3 mmol) was added dropwise; the resulting solution was stirred for 15 minutes. The reaction mixture was transferred via cannula to a suspension of methoxymethyl triphenyl phosphonium chloride (14.9 g, 43.3 mmol) in anhydrous tetrahydrofuran (100 mL), stirred at -20° C. The reaction mixture was stirred at -20° C. for 35 minutes, then it was cooled to -40° C. A solution of 1-benzyl-4-formylpiperidine (8 g, 39.4 mmol) in anhydrous tetrahydrofuran (50 mL) was added dropwise. The reaction mixture was warmed gradually to ambient temperature over 21 hours, then it was poured onto water (500 mL) mixed and extracted three times with ethyl acetate (500 mL). The combined organic layers were dried over magnesium sulfate, treated with decolorizing charcoal and filtered through Celite®. Solvent was removed in vacuo to give an orange oil. Column chromatography (ethyl acetate) gave the product as a mixture of E- and Z- isomers (Rf=0.41, 5.06 g):1H-NMR:7.4-7.2(m,5H), 6.3(d,0.6H,J=13), 5.8(d,0.4H,J=6), 4.65(dd,0.6H,J=13,6), 4.2(dd,0.4H,J=6,5), 3.5(s,1.2H), 3.45(s,1.8H), 2.9-2.7(m,2H), 2.5-2.3(m,1H), 2.1-1.3(m,7H); HR-MS:Calcd for C15H21NO:231.1623; Found:231.1633.

reactant | di-isopropylamine | 43.3 mmol, 6.1 mL, 4.38 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methoxymethyl triphenyl phosphonium chloride | 43.3 mmol, 14.9 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzyl-4-formylpiperidine | 39.4 mmol, 8 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4(2'-methoxyethenyl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)C=COC | C15H21NO
